US05053509
(RS)-1-Cyclopropyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 29, but starting with (RS)-1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.5 g) in N aqueous potassium hydroxide (18.4 cc) and ethanol (18.4 cc). After 1 recrystallization in dimethylformamide (50 cc), (RS)-1-cyclopropyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine-3-carboxylic acid (1.5 g) is obtained in the form of a yellow solid, decomposing at 287° C.

reactant | (RS)-1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C3=CC=C(C=C3)OC)=O)C(=O)OCC | C29H29FN4O4
solvent | potassium hydroxide | 18.4 cc | [OH-].[K+]
solvent | ethanol | 18.4 cc | C(C)O | C2H6O
product | (RS)-1-cyclopropyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine-3-carboxylic acid | 1.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C3=CC=C(C=C3)OC)=O)C(=O)O | C27H25FN4O4
